US04014677
28.6 g (0.5 mole) of cyclopropylamine are added dropwise ar -50° C to 55.5 g (0.25 mole) of 2-ethyl-4,6-dichloro-5-nitro-pyrimidine in 1 liter of ethanol. The reaction mixture is stirred for 3 hours at room temperature and then cooled to -40° C. The crystalline precipitate that has formed is filtered off and dried. Yield: 21 g of 2-ethyl-4-chloro-5-nitro-6-cyclopropylamino-pyrimidine of m.p. 61°-62° C. A Further 22 g of 2-ethyl-4-chloro-5-nitro-6-cyclopropylamino-pyrimidine of m.p. 61°-62° C are obtained by evaporating the filtrate, suspending the residue in water, extracting with ether, drying the ethereal extracts over MgSO4 and evaporating them.

reactant | cyclopropylamine | 0.5 mole, 28.6 g | C1(CC1)N | C3H7N
reactant | 2-ethyl-4,6-dichloro-5-nitro-pyrimidine | 0.25 mole | C(C)C1=NC(=C(C(=N1)Cl)[N+](=O)[O-])Cl | C6H5Cl2N3O2
solvent | ethanol | 1 liter | C(C)O | C2H6O
product | 2-ethyl-4-chloro-5-nitro-6-cyclopropylamino-pyrimidine | 22 g | C(C)C1=NC(=C(C(=N1)Cl)[N+](=O)[O-])NC1CC1 | C9H11ClN4O2
